US05905080
N-(4-Methoxy-3-(4-methyl-1-piperazinyl)phenyl)-5-phenylpenta-2,4-dienamide
5-Phenylpenta-2,4-dienoic acid (270 mg, 1.55 mmol) was heated at reflux with thionyl chloride (3 ml) and toluene (40 ml) for 2 h, and then evaporated to dryness under reduced pressure. 4-Methoxy-3-(4-methyl-1-piperazinyl)phenylamine (340 mg, 1.55 mmol) in dry dichloromethane (40 ml) was added with triethylamine (1 ml) and the mixture stirred for 1 h. The solution was partitioned between dichloromethane (40 ml) and saturated aqueous potassium carbonate (40 ml), the organic solution dried (sodium sulphate) and evaporated to dryness under reduced pressure to afford an oil, which was purified by column chromatography (silica, chloroform/methanol 5%) to afford the title compound (595 mg, 100%) which was crystallised from methanol/diethyl ether as the oxalate salt.

reactant | 5-Phenylpenta-2,4-dienoic acid | 1.55 mmol, 270 mg | C1(=CC=CC=C1)C=CC=CC(=O)O | C11H10O2
reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-Methoxy-3-(4-methyl-1-piperazinyl)phenylamine | 1.55 mmol, 340 mg | COC1=C(C=C(C=C1)N)N1CCN(CC1)C | C12H19N3O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | N-(4-Methoxy-3-(4-methyl-1-piperazinyl)phenyl)-5-phenylpenta-2,4-dienamide | 595 mg, 100% | COC1=C(C=C(C=C1)NC(C=CC=CC1=CC=CC=C1)=O)N1CCN(CC1)C | C23H27N3O2
